US04416884
20.7 g of 8-(o-methoxybenzenesulfonyloxy)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid and 12.9 g of piperazine were added to 200 ml of anhydrous dimethyl sulfoxide and the mixture was heated in autoclave under flow of nitrogen at 10 atm. at a temperature of 150° to 160° C. for 18 hours while stirring. Treatment in an analogous manner as in Example 17 gave 2.5 g of 8-(1-piperazinyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid as white amorphous crystals having a melting point of not lower than 300° C.

reactant | 8-(o-methoxybenzenesulfonyloxy)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 20.7 g | COC1=C(C=CC=C1)S(=O)(=O)OC1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C21H19NO7S
reactant | piperazine | 12.9 g | N1CCNCC1 | C4H10N2
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 8-(1-piperazinyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 2.5 g | N1(CCNCC1)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C18H21N3O3
